US07326803B2
Synthesis of 4-[4-(4-chlorobenzyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoic acid
In a manner similar to that of Example 1g, by reacting 300 mg (0.5 mmol) of methyl 4-[5,5,8,8-tetramethyl-4-(4-chlorobenzyloxy)-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoate with 110 mg of sodium hydroxide. A white crystallized solid is obtained (m=210 mg; yield=72%, m.p.=255° C.).

reactant | methyl 4-[5,5,8,8-tetramethyl-4-(4-chlorobenzyloxy)-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoate | 0.5 mmol, 300 mg | CC1(C=2C(=CC(=CC2C(CC1)(C)C)[Se]C#CC1=CC=C(C(=O)OC)C=C1)OCC1=CC=C(C=C1)Cl)C | C31H31ClO3Se
reactant | sodium hydroxide | 110 mg | [OH-].[Na+]
product | 4-[4-(4-chlorobenzyloxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoic acid | ClC1=CC=C(COC2=CC(=CC=3C(CCC(C23)(C)C)(C)C)[Se]C#CC2=CC=C(C(=O)O)C=C2)C=C1 | C30H29ClO3Se
